US05196434
6-(BROMOACETYL)BENZOTHIAZOLINONE
210 g (1.60 mol) of aluminum chloride are introduced into a 500-cm3 ground-necked flask surmounted by a condenser, and 43 cm3 of dimethylformamide are then added dropwise and with magnetic stirring via a dropping funnel. 30.2 g (0.2 mol) of benzothiazolinone are then added and, while the reaction medium homogenizes, the temperature is stabilized at 70° C. using an oil bath. 19.8 cm3 (0.24 mol) of bromoacetyl chloride are then introduced gradually. After the addition, the mixture is left stirring for one hour at a temperature of 70° C. The reaction medium is hydrolyzed by pouring it onto crushed ice and the precipitate obtained is drained, washed copiously with water and dried. The product is recrystallized in dioxane.

reactant | aluminum chloride | 1.60 mol, 210 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzothiazolinone | 0.2 mol, 30.2 g | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
reactant | bromoacetyl chloride | 0.24 mol, 19.8 cm3 | BrCC(=O)Cl | C2H2BrClO
solvent | dimethylformamide | 43 cm3 | CN(C=O)C | C3H7NO
product | 6-(BROMOACETYL)BENZOTHIAZOLINONE | BrCC(=O)C1=CC2=C(N=CS2=O)C=C1 | C9H6BrNO2S
